US04970207
To a solution of (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2one (394 mg) in N,N-dimethylformamide (4 ml) was added sodium hydride (62% suspension in mineral oil, 44 mg) under stirring at 0° C. in an ice-bath. The mixture was stirred for 1.0 hour at 0° to -5° C. 2-Methoxyethyl chloride (142 mg) was added thereto. The mixture was stirred for 6.0 hours at 60° to 70° C. and cooled. To the cooled reaction mixture were added acetic acid (0.5 ml), ethyl acetate (40 ml) and water (40 ml) under stirring. The organic layer was separated, washed with an aqueous solution of sodium bicarbonate and water, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel with chloroform as an eluent to give the pure product of (3RS)-1,3-dihydro-3(2-indolylcarbonylamino) -5-phenyl-1-(2-methoxyethyl)-2H-1,4-benzodiazepine-2-one (110 mg).

reactant | (3RS)-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2one | 394 mg | N1C(=CC2=CC=CC=C12)C(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C24H18N4O2
reactant | sodium hydride | 44 mg | [H-].[Na+]
reactant | 2-Methoxyethyl chloride | 142 mg | COCCCl | C3H7ClO
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | (3RS)-1,3-dihydro-3(2-indolylcarbonylamino) -5-phenyl-1-(2-methoxyethyl)-2H-1,4-benzodiazepine-2-one | 110 mg | N1C(=CC2=CC=CC=C12)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCOC)=O | C27H24N4O3
